US06083959
A suspension of 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline (23 mg), 2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl bromide (52.4 mg) and potassium carbonate (42.3 mg) in N,N-dimethylformamide (0.5 ml) was stirred for 3 hours at ambient temperature. Water was added thereto, and the resulting precipitate was collected by filtration. The residue was purified by preparative thin layer chromatography (chloroform:methanol, 10:1, v/v) to give 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (60 mg) as colorless amorphous.

reactant | 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline | 23 mg | OC=1C=CC=C2C(=CC(=NC12)C)N1C=NC=C1 | C13H11N3O
reactant | 2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl bromide | 52.4 mg | ClC1=C(CBr)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C21H20BrCl2N3O3
reactant | potassium carbonate | 42.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 60 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C34H30Cl2N6O4
